US05977174
To a solution of 2-dimethylaminoethyl docosahexaenoate (1.12 g, 2.80 mmol) in CH2Cl2 (10.0 mL) was added iodomethane (0.80 g, 5.60 mmol) dropwise at room temperature. The mixture was stirred at room temperature for 3 hr. The solvent and excess reagent was removed under reduced pressure and the residue was triturated with hexanes. The mixture was centrifuged and the supernatant was removed. The residue was dried under reduced pressure to provide the product, docosahexaenoyl choline iodide (1.46 g, 96%), as an off white solid.

reactant | 2-dimethylaminoethyl docosahexaenoate | 2.80 mmol, 1.12 g | C(C=CC=CC=CC=CC=CC=CCCCCCCCCC)(=O)OCCN(C)C | C26H41NO2
reactant | iodomethane | 5.60 mmol, 0.80 g | IC | CH3I
solvent | CH2Cl2 | 10.0 mL | C(Cl)Cl | CH2Cl2
product | docosahexaenoyl choline iodide | 1.46 g, 96% | [I-].C(C=CC=CC=CC=CC=CC=CCCCCCCCCC)(=O)OCC[N+](C)(C)C | InChI=1S/C27H44NO2.HI/c1-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-20-21-22-23-24-27(29)30-26-25-28(2,3)4;/h13-24H,5-12,25-26H2,1-4H3;1H/q+1;/p-1
